US05409943
(b) N-(3-(2,5-Dichlorobenzyloxy)-2-pyridyl)phenyl-acetamidine hydrochloride
A mixture of 2-amino-3-(2,5-dichlorobenzyloxy)pyridine (5.08 g, 18.8 mmol) and ethyl phenylacetimidate hydrochloride (3.52 g, 25.5 mmol) in ethanol (150 ml) was heated under reflux for 2 hours, then evaporated. Flash chromatography (dichloromethane/methanol) and trituration with ether gave the product (0.25 g), m.p. 191°-193° C.

reactant | 2-amino-3-(2,5-dichlorobenzyloxy)pyridine | 18.8 mmol, 5.08 g | NC1=NC=CC=C1OCC1=C(C=CC(=C1)Cl)Cl | C12H10Cl2N2O
reactant | ethyl phenylacetimidate hydrochloride | 25.5 mmol, 3.52 g | Cl.C1(=CC=CC=C1)CC(OCC)=N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N-(3-(2,5-Dichlorobenzyloxy)-2-pyridyl)phenyl-acetamidine hydrochloride | 0.25 g | Cl.ClC1=C(COC=2C(=NC=CC2)NC(CC2=CC=CC=C2)=N)C=C(C=C1)Cl | InChI=1S/C20H17Cl2N3O.ClH/c21-16-8-9-17(22)15(12-16)13-26-18-7-4-10-24-20(18)25-19(23)11-14-5-2-1-3-6-14;/h1-10,12H,11,13H2,(H2,23,24,25);1H
